US07566712B2
M. 3-(3-{2-Morpholin-4-yl-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidin-4-yl}-phenyl)-propionic acid
Purge a solution of 4-{4-chloro-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidin-2-yl}-morpholine (142 mg, 0.33 mmol), (3-(2-methoxycarbonylethyl)phenyl)boronic acid (Combi-Blocks, Inc., San Diego, Calif.; 104 mg, 0.5 mmol) and K3PO4 (2M, 331 μL) in dioxane with nitrogen for 10 minutes. Add Pd(PPh3)4 (19 mg, 0.017 mmol) and purge for an additional 5 minutes. Seal the contents in a reaction vial and heat at 80° C. for 16 hours. Partition the mixture between EtOAc and water, dry (Na2SO4) the organic layer and concentrate under reduced pressure. Filter the residue through a small pad of silica gel eluting with 50% EtOAc/hexanes. Concentrate under reduced pressure to give the title compound.

reactant | 4-{4-chloro-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidin-2-yl}-morpholine | 0.33 mmol, 142 mg | ClC1=NC(=NC(=C1)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F)N1CCOCC1 | C18H20ClF3N6O
reactant | (3-(2-methoxycarbonylethyl)phenyl)boronic acid | 0.5 mmol, 104 mg | COC(=O)CCC=1C=C(C=CC1)B(O)O | C10H13BO4
reactant | K3PO4 | 2M, 331 μL | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.017 mmol, 19 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(3-{2-Morpholin-4-yl-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidin-4-yl}-phenyl)-propionic acid | N1(CCOCC1)C1=NC(=CC(=N1)C=1C=C(C=CC1)CCC(=O)O)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F | C27H29F3N6O3
